### PR TITLE
Basics of cofinal maps

### PR DESCRIPTION
**Pull request by samtoth**
- ~[x] Defines cocartesian fibrations~
 - ~[ ] A cocartesian fibration is a left fibration iff all arrows are cocartesian~
 - [x] Defines left Cofinal maps
 - ~[ ] Defines contravariant equivalences~
 - [x] Left fibrations are those maps which induce equivalences on slice categories
 - [x] Left cofinal maps are stable under base change by right fibrations
 - ~[ ] Left cofinal maps are initial~
 - ~[ ] A map is Left cofinal iff it is a left fibration~
 - ~[ ] The universal property of the free left fibration~
 - ~[ ] Dualise everything~

Partially addresses #117 and #109 

Trying to get enough facts about cofinal maps down to finish off the hole in the proof of directed univalence. I started with some definitions of cocartesian fibrations because the proof that left Cofinal maps are left anodyne goes via the free fibration. It might be nice if this can be avoided since it seems like it will require more machinery around cocartesian fibrations.

As for terminology, I propose the following:

 - Left cofinal for the condition that the generalised slices are groupoid connected
 - Left anodyne for being left orthogonal to all left fibrations
 - Initial for inducing equivalences on the coslice categories (i.e. preserving colimits)
 - Covariant equivalences for .... (I need to understand this condition a bit better...)

Narrowing the scope of this PR down to just include defining left Cofinal maps, and a few basic facts

### CODE REVIEW

**Comment by samtoth** [comment]
Moved the wip on cocartesian fibrations to a gist: https://gist.github.com/samtoth/5112100b31d055521739eb9792223e45

File: src/Core/CartesianSquares.lagda.tree [hunk 1]
```diff
@@ -411,6 +411,24 @@ is-cartesian←dom+cod-is-equiv F feq geq a
...
+    → (let open Arrow-map F)
+    → is-cartesian F
+    → is-equiv bot
+    → is-equiv top
+top-is-equiv←is-cartesian F feq geq
+  = is-equiv-∘ {f = pb.π₂} {g = gap-map←square F}
+      (pullback-equiv₂ geq)
+      (is-pullback←is-cartesian F feq)
+}
 }
```
Comment (fredrik-bakke) [inline src/Core/CartesianSquares.lagda.tree:434]:
```suggestion
}

\p{The converse is left to be formalised.}
}
```

File: src/Foundations/CanonicalPullbacks.lagda.tree [hunk 2]
```diff
@@ -477,22 +494,17 @@ pullback-equiv₁ {f = f} {g} geq
...
-pullback-swap {f = f} {g}
-    = Pullback f g ≃⟨ Σ-comm ⟩
-      (Σ[ a ∶ _ ] Σ[ b ∶ _ ] (f b ＝ g a))
-        ≃⟨ Σ-snd-≃ (λ _ → Σ-snd-≃ (λ _ → sym≃)) ⟩
-      Pullback g f ≃∎
+pullback-equiv₂ : ∀ {𝓤 𝓥 𝓦} {A : Type 𝓤} {B : Type 𝓥} {C : Type 𝓦}
+                    {f : A → C} {g : B → C}
+                  → let open pb
+                  in is-equiv f
+                  →  is-equiv π₂
```
Comment (fredrik-bakke) [inline src/Foundations/CanonicalPullbacks.lagda.tree]: Please don't open modules in type signatures. I find it's quite ugly, and can also be confusing.

File: src/Modalities/ConnectedTypes.lagda.tree [hunk 3]
```diff
@@ -67,6 +67,22 @@ is-connected' {S = S} Sref A = is-singleton (is-reflective.○ Sref A)
...
+\author{samueltoth}
+
+\agda{
+is-connected←equiv
+  : ∀ {α 𝓤 𝓥} (R : gRSubU α) {A : Type 𝓤} {B : Type 𝓥}
+    → A ≃ B → is-connected R A → is-connected R B
+is-connected←equiv K e KcA
+  = is-single←equiv-to-single
+      (gReflectiveReasoning.○-≃ K e)
+      KcA
```
Comment (fredrik-bakke) [inline src/Modalities/ConnectedTypes.lagda.tree]:
```suggestion
is-connected←equiv K e
  = is-single←equiv-to-single
      (gReflectiveReasoning.○-≃ K e)
```

File: src/Synthetic/Categories/Comma.lagda.tree [hunk 4]
```diff
@@ -371,6 +386,42 @@ instance
 }
 }
 
+\subtree[tot-00DK]{
+\taxon{Lemma}
+
+\p{We give a presentation of the comma type #{F \downarrow \{x\}} as
+the pullback #{A \times_{B} B_{/x}}.}
```
Comment (fredrik-bakke) [inline src/Synthetic/Categories/Comma.lagda.tree]: Just to make it consistent with the code

```suggestion
\p{We give a presentation of the comma type #{F \downarrow \{b\}} as
the pullback #{A \times_{B} B_{/b}}.}
```

File: src/Synthetic/Categories/ContravariantFamilies.lagda.tree [hunk 5]
```diff
@@ -217,6 +221,58 @@ module _ {𝓤 𝓥} {A : Type 𝓤} (P : A → Type 𝓥) where opaque
 }
 }
 
+\subtree[tot-R0A2]{
+\title{Right fibrations are maps which induce equivalences on coslices}
+\taxon{Lemma}
+
+\p{#{p : E \to B} is a right fibration iff for each #{x : E}, the induced map
+#{E_{x/} \to B_{x/}} is an equivalence.}
```
Comment (fredrik-bakke) [inline src/Synthetic/Categories/ContravariantFamilies.lagda.tree]:
```suggestion
\p{#{p : E \to B} is a right fibration iff for each #{e : E}, the induced map
#{E_{e/} \to B_{p(e)/}} is an equivalence.}
```

File: src/Synthetic/Categories/ContravariantFamilies.lagda.tree [hunk 6]
```diff
@@ -217,6 +221,58 @@ module _ {𝓤 𝓥} {A : Type 𝓤} (P : A → Type 𝓥) where opaque
...
+
+\agda{
+module _ {𝓤 𝓥} {E : Type 𝓤} {B : Type 𝓥} (p : E → B) where
+  arrow-fibre-right-fibration-is-slice-map
```
Comment (fredrik-bakke) [inline src/Synthetic/Categories/ContravariantFamilies.lagda.tree:234]:
```suggestion
module _ {𝓤 𝓥} {E : Type 𝓤} {B : Type 𝓥} (p : E → B) where

  arrow-fibre-right-fibration-is-slice-map
```

File: src/Synthetic/Categories/ContravariantFamilies.lagda.tree [hunk 7]
```diff
@@ -217,6 +221,58 @@ module _ {𝓤 𝓥} {A : Type 𝓤} (P : A → Type 𝓥) where opaque
...
+        (Slice-object-repr≃ (p e) ._≃_.fwd-is-equiv)
+
+  slice-map-is-equiv←is-right-fibration
+    : is-right-fibration p → (∀ e → is-equiv (postcompose-slice (point e) p))
+  slice-map-is-equiv←is-right-fibration lfib e
+    = src-is-equiv←Arrow-equiv
+        (arrow-fibre-right-fibration-is-slice-map e)
+        (transpose-is-cartesian _ (is-cartesian←are-orthogonal lfib) (point e))
+
+
```
Comment (fredrik-bakke) [inline src/Synthetic/Categories/ContravariantFamilies.lagda.tree]:
```suggestion

```

File: src/Synthetic/Categories/ContravariantFamilies.lagda.tree [hunk 8]
```diff
@@ -217,6 +221,58 @@ module _ {𝓤 𝓥} {A : Type 𝓤} (P : A → Type 𝓥) where opaque
...
+  arrow-fibre-right-fibration-is-slice-map e .snd .fst
+    = is-equiv-∘
+        (is-total-equiv←is-fibrewise-equiv
+          (λ a → is-embedding←is-equiv (point-is-equiv)))
+        (Slice-object-repr≃ e ._≃_.fwd-is-equiv)
+  arrow-fibre-right-fibration-is-slice-map e .snd .snd
+    = is-equiv-∘
+        (is-total-equiv←is-fibrewise-equiv
+          (λ a → is-embedding←is-equiv (point-is-equiv)))
+        (Slice-object-repr≃ (p e) ._≃_.fwd-is-equiv)
```
Comment (fredrik-bakke) [inline src/Synthetic/Categories/ContravariantFamilies.lagda.tree]: looks like you're proving the same equivalence twice here. Please factor the equivalence out into a separate lemma.

File: src/Synthetic/Categories/ContravariantFamilies.lagda.tree [hunk 9]
```diff
@@ -217,6 +221,58 @@ module _ {𝓤 𝓥} {A : Type 𝓤} (P : A → Type 𝓥) where opaque
...
+
+
+  is-right-fibration←slice-map-is-equiv
+    : (∀ e → is-equiv (postcompose-slice (point e) p)) → is-right-fibration p
+  is-right-fibration←slice-map-is-equiv eqv
+    = are-orthogonal←is-cartesian
+        (transpose-is-cartesian _
+          λ e → tgt-is-equiv←Arrow-equiv
+                  (arrow-fibre-right-fibration-is-slice-map (e tt))
+                  (eqv (e tt)))
```
Comment (fredrik-bakke) [inline src/Synthetic/Categories/ContravariantFamilies.lagda.tree]:
```suggestion
          λ e 
          → tgt-is-equiv←Arrow-equiv
              (arrow-fibre-right-fibration-is-slice-map (e tt))
              (eqv (e tt)))
```

File: src/Synthetic/Categories/ContravariantFamilies.lagda.tree [hunk 10]
```diff
@@ -217,6 +221,58 @@ module _ {𝓤 𝓥} {A : Type 𝓤} (P : A → Type 𝓥) where opaque
...
+
```
Comment (fredrik-bakke) [inline src/Synthetic/Categories/ContravariantFamilies.lagda.tree]:
```suggestion
```

File: src/Synthetic/Categories/CovariantFamilies.lagda.tree [hunk 11]
```diff
@@ -247,6 +251,58 @@ opaque
 }
 }
 
+\subtree[tot-00A2]{
+\title{Left fibrations are maps which induce equivalences on coslices}
+\taxon{Lemma}
+
+\p{#{p : E \to B} is a left fibration iff for each #{x : E}, the induced map
+#{E_{x/} \to B_{x/}} is an equivalence.}
```
Comment (fredrik-bakke) [inline src/Synthetic/Categories/CovariantFamilies.lagda.tree]:
```suggestion
\p{#{p : E \to B} is a left fibration iff for each #{e : E}, the induced map
#{E_{e/} \to B_{p(e)/}} is an equivalence.}
```

File: src/Synthetic/Categories/CovariantFamilies.lagda.tree [hunk 12]
```diff
@@ -247,6 +251,58 @@ opaque
...
+  arrow-fibre-left-fibration-is-coslice-map e .snd .fst
+    = is-equiv-∘
+        (is-total-equiv←is-fibrewise-equiv
+          (λ a → is-embedding←is-equiv (point-is-equiv)))
+        (Coslice-object-repr≃ e ._≃_.fwd-is-equiv)
+  arrow-fibre-left-fibration-is-coslice-map e .snd .snd
+    = is-equiv-∘
+        (is-total-equiv←is-fibrewise-equiv
+          (λ a → is-embedding←is-equiv (point-is-equiv)))
+        (Coslice-object-repr≃ (p e) ._≃_.fwd-is-equiv)
```
Comment (fredrik-bakke) [inline src/Synthetic/Categories/CovariantFamilies.lagda.tree]: please factor out the common proof of an equivalence here

File: src/Synthetic/Categories/CovariantFamilies.lagda.tree [hunk 13]
```diff
@@ -247,6 +251,58 @@ opaque
...
+
+
+  is-left-fibration←coslice-map-is-equiv
+    : (∀ e → is-equiv (postcompose-coslice (point e) p)) → is-left-fibration p
+  is-left-fibration←coslice-map-is-equiv eqv
+    = are-orthogonal←is-cartesian
+        (transpose-is-cartesian _
+          λ e → tgt-is-equiv←Arrow-equiv
+                  (arrow-fibre-left-fibration-is-coslice-map (e tt))
+                  (eqv (e tt)))
```
Comment (fredrik-bakke) [inline src/Synthetic/Categories/CovariantFamilies.lagda.tree]:
```suggestion
          λ e 
          → tgt-is-equiv←Arrow-equiv
              (arrow-fibre-left-fibration-is-coslice-map (e tt))
              (eqv (e tt)))
```

File: src/Synthetic/Categories/CovariantFamilies.lagda.tree [hunk 14]
```diff
@@ -247,6 +251,58 @@ opaque
...
+
```
Comment (fredrik-bakke) [inline src/Synthetic/Categories/CovariantFamilies.lagda.tree]:
```suggestion
```

File: src/Synthetic/Categories/CovariantFamilies.lagda.tree [hunk 15]
```diff
@@ -474,3 +530,33 @@ tr-cov-hom-naturality {A = A} {F} Fc Gc α f x'
              (ap (α (f i1)) ((Fc f x') .centre .snd .Homᵈ.hom1))
 }
 }
+
+
+\subtree[stt-00FR]{
+\title{Natural transformations are natural w.r.t covariant transport}
```
Comment (fredrik-bakke) [inline src/Synthetic/Categories/CovariantFamilies.lagda.tree]:
```suggestion
\title{Natural transformations are natural with respect to covariant transport}
```

File: src/Synthetic/Categories/CovariantFamilies.lagda.tree [hunk 16]
```diff
@@ -474,3 +530,33 @@ tr-cov-hom-naturality {A = A} {F} Fc Gc α f x'
...
+\taxon{Lemma}
+
+\citet{Prop 8.17.}{RS17}
```
Comment (fredrik-bakke) [inline src/Synthetic/Categories/CovariantFamilies.lagda.tree]:
```suggestion
\citet{Proposition 8.17}{RS17}
```

File: src/Synthetic/Categories/LeftCofinalMaps.lagda.tree [hunk 17]
```diff
@@ -0,0 +1,150 @@
...
+  where
+
+open import Axioms.UF
+
+open Lattice I renaming (0l to i0; 1l to i1)
+import Algebra.Lattice.Instances.Polynomial as Poly
+open Poly  hiding (Δ²)
+
+private
+  Δ² = Poly.Δ² I
```
Comment (fredrik-bakke) [inline src/Synthetic/Categories/LeftCofinalMaps.lagda.tree]:
```suggestion
private Δ² = Poly.Δ² I
```

File: src/Synthetic/Categories/LeftCofinalMaps.lagda.tree [hunk 18]
```diff
@@ -0,0 +1,150 @@
...
+open import Modalities.ConnectedMaps
+open import Modalities.ConnectedTypes
+
+open import Synthetic.Hom Δ¹ i0 i1
+open import Synthetic.Categories.CovariantFamilies Δ¹ I
+open import Synthetic.Categories.ContravariantFamilies Δ¹ I
+open import Synthetic.Categories.Comma Δ¹ I
+
+open import Ergonomics.Auto
+open import Ergonomics.Extensionality
```
Comment (fredrik-bakke) [inline src/Synthetic/Categories/LeftCofinalMaps.lagda.tree:53]: Please organise your imports into an `\agda-imports{...}` block

File: src/Synthetic/Categories/LeftCofinalMaps.lagda.tree [hunk 19]
```diff
@@ -0,0 +1,150 @@
...
+}
+
+\subtree[tot-F000]{
+\title{Left cofinal maps}
+\taxon{Definition}
+
+\agda{
+ev-bifibration : ∀ {𝓤} {B : Type 𝓤} → (Δ¹ → B) → B × B
```
Comment (fredrik-bakke) [inline src/Synthetic/Categories/LeftCofinalMaps.lagda.tree]: This is already in fully faithful maps.

File: src/Synthetic/Categories/LeftCofinalMaps.lagda.tree [hunk 20]
```diff
@@ -0,0 +1,150 @@
...
+ev-bifibration f = (f i0 , f i1)
+
+module _ {𝓤 𝓥} {E : Type 𝓤} {B : Type 𝓥} where
+  is-left-cofinal' : (p : E → B) → Type (𝓘 ⊔ 𝓤 ⊔ 𝓥)
```
Comment (fredrik-bakke) [inline src/Synthetic/Categories/LeftCofinalMaps.lagda.tree:64]:
```suggestion
module _ {𝓤 𝓥} {E : Type 𝓤} {B : Type 𝓥} where

  is-left-cofinal' : (p : E → B) → Type (𝓘 ⊔ 𝓤 ⊔ 𝓥)
```

File: src/Synthetic/Categories/LeftCofinalMaps.lagda.tree [hunk 21]
```diff
@@ -0,0 +1,150 @@
...
+  is-left-cofinal' p
+    = ∀ (b : B) → is-connected Δ¹DiscreteType-gRSubU (p ↓ point b)
+
+
```
Comment (fredrik-bakke) [inline src/Synthetic/Categories/LeftCofinalMaps.lagda.tree:68]:
```suggestion
    = (b : B) → is-connected Δ¹DiscreteType-gRSubU (p ↓ point b)

```

File: src/Synthetic/Categories/LeftCofinalMaps.lagda.tree [hunk 22]
```diff
@@ -0,0 +1,150 @@
...
+      : Arrow-map
+          (base-change-arrow {A = Slice C (point c)} fst (base-change-arrow F p))
+          (base-change-arrow {A = Slice B (point (F c))} fst p)
+    dom-sq .Arrow-Π.top
+      = Pullback₁ (mk-cospan-map
+                    (postcompose-slice (point c) F)
+                     F
+                     pb.π₂
+                     ~refl
+                     pb.filler)
```
Comment (fredrik-bakke) [inline src/Synthetic/Categories/LeftCofinalMaps.lagda.tree]:
```suggestion
      = Pullback₁ (mk-cospan-map
         (postcompose-slice (point c) F)
         F
         pb.π₂
         ~refl
         pb.filler)
```

File: src/Synthetic/Categories/LeftCofinalMaps.lagda.tree [hunk 23]
```diff
@@ -0,0 +1,150 @@
...
+    eq : Arrow-equiv (dom-sq .Arrow-map.top) map
+    eq .fst .Arrow-Π.top = comma-point←pb-slice (base-change-arrow F p) c
+    eq .fst .Arrow-Π.bot = comma-point←pb-slice p (F c)
+    eq .fst .Arrow-Π.comm ((_ , x) , y , refl)
+      = ext! (refl , refl ,
+             ( ~refl
+             , Square-degen-vert _ _
+                 (ap (_∙ y .snd .snd) (ap (ap F) (sym (∙-reflr _))))
+             , Square-degen-vert _ _
+                 (ap (_∙ refl) (ap (ap F) (sym (∙-reflr _))))))
```
Comment (fredrik-bakke) [inline src/Synthetic/Categories/LeftCofinalMaps.lagda.tree]:
```suggestion
      = ext! 
        ( refl 
        , refl 
        , ( ~refl
          , Square-degen-vert _ _
              (ap (_∙ y .snd .snd) (ap (ap F) (sym (∙-reflr _))))
          , Square-degen-vert _ _
              (ap (_∙ refl) (ap (ap F) (sym (∙-reflr _))))))
```

File: src/Synthetic/Categories/PushoutJoins.lagda.tree [hunk 24]
```diff
@@ -184,6 +184,7 @@ hom-fam-as-slice x .Arrow-map.comm = ~refl
 }
 }
 
+
```
Comment (fredrik-bakke) [inline src/Synthetic/Categories/PushoutJoins.lagda.tree]:
```suggestion
```

File: src/Synthetic/Categories/PushoutJoins.lagda.tree [hunk 25]
```diff
@@ -224,3 +225,34 @@ pullback-coslice-power p q F r s G
   = gap-map←square (power-hom-coslice p q F r s G)
 }
 }
+
+\subtree[tot-1001]{
+\title{Pullback Coslices}
+\taxon{Definition}
+
+% TODO: Add diagram!!!
```
Comment (fredrik-bakke) [inline src/Synthetic/Categories/PushoutJoins.lagda.tree]: !!!!!!!

File: src/Synthetic/Categories/PushoutJoins.lagda.tree [hunk 26]
```diff
@@ -224,3 +225,34 @@ pullback-coslice-power p q F r s G
...
+      (λ k → Hom-ext→ (~refl , ap-∙ f _ (G .snd k) ,  ap-∙ f _ refl))))
+
+pullback-coslice
+  : ∀ {𝓤 𝓥 𝓜 𝓝} {A : Type 𝓤} {B : Type 𝓥} (f : A → B)
+      {K : Type 𝓜} {p : K → A}
+      {S : Type 𝓝} {q : S → A} (g : Slice-map p q)
+    → Coslice A q
+    → Pullback (coslice-map-slice (f ∘ q) (f ∘ p) (extend-slice-map _ q f g))
+        (postcompose-coslice p f)
+pullback-coslice f g = gap-map←square (coslice-square f g)
```
Comment (fredrik-bakke) [inline src/Synthetic/Categories/PushoutJoins.lagda.tree]: put in common anonymous module

File: src/Synthetic/Hom.lagda.tree [hunk 27]
```diff
@@ -152,6 +152,11 @@ adjust-hom
     → Hom A x y → Hom A x' y'
 adjust-hom p q (mk-hom fh f0 f1) = mk-hom fh (f0 ∙ p) (f1 ∙ q)
 
+adjust-hom-refl
+  : ∀ {𝓤} {A : Type 𝓤} {x y}
```
Comment (fredrik-bakke) [inline src/Synthetic/Hom.lagda.tree:156]:
```suggestion
  : ∀ {𝓤} {A : Type 𝓤} {x y : A}
```

**Review by fredrik-bakke — APPROVED** [review]

File: src/Foundations/CanonicalPullbacks.lagda.tree [hunk 28]
```diff
@@ -496,3 +473,35 @@ pullback-swap {f = f} {g}
...
+then pulling back #{g} along any map gives an equivalence}
+
+
+\agda{
+module _
+  {𝓤 𝓥 𝓦} {A : Type 𝓤} {B : Type 𝓥} {C : Type 𝓦}
+  {f : A → C} {g : B → C}
+  (open pb)
+  where
+  pullback-equiv₁ : is-equiv g →  is-equiv π₁
```
Comment (fredrik-bakke) [inline src/Foundations/CanonicalPullbacks.lagda.tree:493]:
```suggestion
  where

  pullback-equiv₁ : is-equiv g →  is-equiv π₁
```
